US07241783B2
4-(4-carboxyphenyl)-1-(3,5-dichloro-2-hydroxybenzylidene)-3-thiosemicarbazide
Concentrated aqueous hydrochloric acid (1 mL) was added to a stirred solution of 4-(4-carboxyphenyl)-3-thiosemicarbazide (213 mg, 1.00 mmol) and 3,5-dichloro-2-hydroxybenzaldehyde (198 mg, 1.04 mmol) in dimethylformamide (20 mL). The mixture was stirred for 18 h, water was added and the precipitate filtered, washed (water) and dried to give the title compound (212 mg, 55%) as a solid. MS (ES−) m/e 382, 384 [M−H]-.

reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | 4-(4-carboxyphenyl)-3-thiosemicarbazide | 1.00 mmol, 213 mg | C(=O)(O)C1=CC=C(C=C1)NC(NN)=S | C8H9N3O2S
reactant | 3,5-dichloro-2-hydroxybenzaldehyde | 1.04 mmol, 198 mg | ClC=1C(=C(C=O)C=C(C1)Cl)O | C7H4Cl2O2
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(4-carboxyphenyl)-1-(3,5-dichloro-2-hydroxybenzylidene)-3-thiosemicarbazide | 212 mg, 55% | C(=O)(O)C1=CC=C(C=C1)NC(NN=CC1=C(C(=CC(=C1)Cl)Cl)O)=S | C15H11Cl2N3O3S
